US07465815B2
4-Hydroxy-2-methyl-1-naphthyl acetate
To a solution of 4-(acetyloxy)-2-methyl-1-naphthyl acetate (25 g, 96.8 mmol) in methanol (300 mL) was added potassium carbonate (58.1 g, 420 mmol), and the mixture was stirred under argon atmosphere at room temperature for 15 minutes. Water was poured into the mixture, which was neutralized with hydrochloric acid and then extracted with ethyl acetate. The extract was washed with a saturated brine and dried over sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 21 g (yield: quantitative) of the title compound. Oily matter.

reactant | 4-(acetyloxy)-2-methyl-1-naphthyl acetate | 96.8 mmol, 25 g | C(C)(=O)OC1=C(C=C(C2=CC=CC=C12)OC(C)=O)C | C15H14O4
reactant | potassium carbonate | 420 mmol, 58.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 4-Hydroxy-2-methyl-1-naphthyl acetate | 21 g, yield: quantitative | C(C)(=O)OC1=C(C=C(C2=CC=CC=C12)O)C | C13H12O3
